US06169107A
A mixture of 16.2 g (64.5 mmol) of 4-(tert-butoxycarbonylaminomethyl)benzoic acid, 13.6 g (70.9 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 1.00 g of 4-dimethylaminopyridine and 200 ml of methanol was stirred at room temperature for 4 hours. Methanol was distilled off under reduced pressure and ice water was poured to the residue thus obtained. The mixture was extracted twice with ethyl acetate and the extract was washed with 10% citric acid aqueous solution and then with saturated sodium hydrogencarbonate aqueous solution and finally with saturated sodium chloride aqueous solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to give 14.3 g (83.6%) of methyl 4-(tert-butoxycarbonylaminomethyl)benzoate.

reactant | 4-(tert-butoxycarbonylaminomethyl)benzoic acid | 64.5 mmol, 16.2 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 70.9 mmol, 13.6 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 1.00 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 200 ml | CO | CH4O
product | methyl 4-(tert-butoxycarbonylaminomethyl)benzoate | 14.3 g, 83.6% | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)OC)C=C1 | C14H19NO4
